US06919360B2
2-[4-({[(2R)-6-Hydroxy-3,4-dihydro-2H-chromen-2-yl]methyl}amino)butyl]-1,2-benzisothiazol-3(2H)-one 1,1-dioxide hydrochloride
2 g of 10% palladium on carbon are added to 11.2 g (19 mmol) of (2R)-2-({[(benzyloxy)carbonyl][4-(1,1-dioxido-3-oxo-1,2-benzisothiazol-2(3H)-yl)-butyl]amino}methyl)-3,4-dihydro-2H-chromen-6-yl acetate in 200 ml of glacial acetic acid and 67 ml of concentrated hydrochloric acid, and the mixture is hydrogenated at 3 bar and room temperature for 4 hours. The catalyst is filtered off, and 5 ml of 25% strength aqueous ammonia are then added and the mixture is concentrated. The residue is purified by chromatography (silica gel, mobile phase dichloromethane/ethanol, gradient 1:0 to 5:1). The resulting product fractions are freed from the solvent by concentration and taken up in ethanol, and 10 ml of a 4 N solution of HCl gas in ethanol are added carefully. After cooling in ice, the resulting solid is filtered off with suction, dissolved in 550 ml of hot ethanol and treated with activated carbon. After filtration, the mixture is concentrated to about 100 ml. The precipitated crystals are filtered off with suction and dried under reduced pressure. This give 3.15 g (37% of theory) of 2-[4-({[(2R)-6-hydroxy-3,4-dihydro-2H-chromen-2-yl]methyl}amino)butyl]-1,2-benzisothiazol-3(2H)-one 1,1-dioxide hydrochloride as colorless crystals.

reactant | (2R)-2-({[(benzyloxy)carbonyl][4-(1,1-dioxido-3-oxo-1,2-benzisothiazol-2(3H)-yl)-butyl]amino}methyl)-3,4-dihydro-2H-chromen-6-yl acetate | 19 mmol, 11.2 g | C(C)(=O)OC=1C=C2CC[C@@H](OC2=CC1)CN(CCCCN1S(C2=C(C1=O)C=CC=C2)(=O)=O)C(=O)OCC2=CC=CC=C2 | C31H32N2O8S
reactant | hydrochloric acid | 67 ml | Cl | ClH
catalyst | palladium on carbon | 2 g | [Pd] | Pd
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 2-[4-({[(2R)-6-Hydroxy-3,4-dihydro-2H-chromen-2-yl]methyl}amino)butyl]-1,2-benzisothiazol-3(2H)-one 1,1-dioxide hydrochloride | Cl.OC=1C=C2CC[C@@H](OC2=CC1)CNCCCCN1S(C2=C(C1=O)C=CC=C2)(=O)=O | InChI=1S/C21H24N2O5S.ClH/c24-16-8-10-19-15(13-16)7-9-17(28-19)14-22-11-3-4-12-23-21(25)18-5-1-2-6-20(18)29(23,26)27;/h1-2,5-6,8,10,13,17,22,24H,3-4,7,9,11-12,14H2;1H/t17-;/m1./s1
